US04812585
In 50 ml of toluene were dissolved 6.51 g (0.05 mole) of heptanoic acid and 10.26 g (0.06 mole) of monochloroacetic anhydride. To the resulting solution were added 5.34 g (0.065 mole) of 2-methylfuran and 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 50° C. for 5.5 hours. After completion of the reaction, the reaction solution was cooled and washed successively with 5% aqueous sodium carbonate solution and water. The organic layer was concentrated under reduced pressure and the resulting concentrated residue was then purified by silica gel-filled column chromatography to obtain 6.27 g of 2-heptanoyl-5-methylfuran.

reactant | heptanoic acid | 0.05 mole, 6.51 g | C(CCCCCC)(=O)O | C7H14O2
reactant | monochloroacetic anhydride | 0.06 mole, 10.26 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 2-methylfuran | 0.065 mole, 5.34 g | CC=1OC=CC1 | C5H6O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-heptanoyl-5-methylfuran | 6.27 g, Yield: 69.6% | C(CCCCCC)(=O)C=1OC(=CC1)C | C12H18O2
